US09233974B2
A solution of Ph3PEtBr (84 g, 227 mmol) and KOtBu (76.7 g, 556 mmol) in THF (1100 mL) was stirred at rt under nitrogen atmosphere for 1 h, and then added (S)-1-tert-butyl 2-methyl 4-oxopyrrolidine-1,2-dicarboxylate (50 g, 206 mmol) in THF (350 mL) dropwise. The mixture was stirred at room temperature for 4 hs. TLC showed the reaction was completed. The mixture was quenched with NH4Cl aqueous and concentrated to remove THF, and then dissolved in EtOAc and water. The combined organic layer was washed with water, brine, dried over Na2SO4, filtered and concentrated. The crude product was purified by column chromatography (PE: EtOAc=30:1 to 5:1) to afford (S)-1-tert-butyl 2-methyl 4-ethylidenepyrrolidine-1,2-dicarboxylate (18.3 g, 35%) as yellow oil.

reactant | KOtBu | 556 mmol, 76.7 g | CC(C)(C)[O-].[K+]
reactant | (S)-1-tert-butyl 2-methyl 4-oxopyrrolidine-1,2-dicarboxylate | 206 mmol, 50 g | O=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C11H17NO5
solvent | THF | 1100 mL | C1CCOC1 | C4H8O
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | (S)-1-tert-butyl 2-methyl 4-ethylidenepyrrolidine-1,2-dicarboxylate | 18.3 g, 35% | C(C)=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C13H21NO4
